US07696213B2
N-(5-Bromo-2-(2,5-dimethyl-1H-pyrrol-1-yl)-6-methylpyrimidin-4-yl)-N-(pyrrolidin-1-yl)acrylamide
To a reaction solution of 5-bromo-2-(2,5-dimethyl-1H-pyrrol-1-yl)-6-methyl-N-(pyrrolidin-1-yl)pyrimidin-4-amine (3.14 g, 8.97 mmol) in anhydrous methylene chloride (120 ml) and hunig's base (4.68 ml) was added slowly a solution of acryloyl chloride (0.80 ml, 9.86 mmol) in methylene chloride (30 ml) dropwise at R.T. After stirring at R.T for 60 mins, the reaction mixture was concentrated under reduced pressure and the residue was purified by 120 g column eluted with 40% ethyl acetate:hexane to give the titled product weighted 3.5 g a white solid 97%

reactant | 5-bromo-2-(2,5-dimethyl-1H-pyrrol-1-yl)-6-methyl-N-(pyrrolidin-1-yl)pyrimidin-4-amine | 8.97 mmol, 3.14 g | BrC=1C(=NC(=NC1C)N1C(=CC=C1C)C)NN1CCCC1 | C15H20BrN5
reactant | acryloyl chloride | 9.86 mmol, 0.80 ml | C(C=C)(=O)Cl | C3H3ClO
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | hunig's base | 4.68 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-(5-Bromo-2-(2,5-dimethyl-1H-pyrrol-1-yl)-6-methylpyrimidin-4-yl)-N-(pyrrolidin-1-yl)acrylamide | BrC=1C(=NC(=NC1C)N1C(=CC=C1C)C)N(C(C=C)=O)N1CCCC1 | C18H22BrN5O
